US07576212B2
{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-acetic acid ethyl ester (47 mg, 0.12 mmol) was dissolved in dry THF (10 ml) under nitrogen and cooled to 0° C. Diisobutyl Aluminium Hydride (0.466 ml of a 1 M solution in hexanes, 0.466 mmol) was added dropwise over 2 min and the mixture stirred at 0° C. for 1 h, then stirred at room temperature overnight. The reaction was cooled to 0° C. and water (5 ml) was added carefully, followed by 1 M Rochelle's salt (5 ml). The reaction was stirred at room temperature for 15 min, and then extracted with DCM (2×25 ml), the extracts combined, dried over magnesium sulphate, and concentrated. The residue was purified on silica, eluting (Ethyl Acetate/Petroleum ether), 50-100%) to give 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-ethanol as a brown solid. Yield=25.3 mg (60.4%).

reactant | {3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-acetic acid ethyl ester | 0.12 mmol, 47 mg | C(C)OC(CC1=CC(=C2C(=N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C23H21N3O2S
reactant | Diisobutyl Aluminium Hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 5 ml | O | H2O
reactant | Rochelle's salt | 1 M, 5 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-ethanol | C1(=CC=CC=C1)C1=CSC2=NC(=CC(=C21)NCC2=NC=CC=C2)CCO | C21H19N3OS
